US07947761B2
A solution of 70 g of N-[2-(4-methoxyphenyl)ethyl]acetamide in 330 mL of acetic acid was introduced slowly into 350 mL of 70% nitric acid so that the temperature was between 30-35° C. The addition process took 1 hour. The mixture was stirred at 30-35° C. for additional 40 minutes and was then poured into 1500 mL of ice water. The resulting slurry was extracted with chloroform (2×400 mL). The organic phase was extracted with a saturated aqueous solution of NaHCO3 (2×400 mL) and then with water (2×400 mL). The solvent was then removed by rotary evaporation to produce 65 g of N-[2-(4-methoxy-3-nitrophenyl)ethyl]acetamide, which was further purified by recrystallization from ethyl acetate to yield 48 g (55.6% yield) of yellow crystals. 1HNMR (DMSO-d6) spectrum was consistent with the desired product.

reactant | N-[2-(4-methoxyphenyl)ethyl]acetamide | 70 g | COC1=CC=C(C=C1)CCNC(C)=O | C11H15NO2
reactant | nitric acid | 350 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 330 mL | C(C)(=O)O | C2H4O2
product | N-[2-(4-methoxy-3-nitrophenyl)ethyl]acetamide | 65 g | COC1=C(C=C(C=C1)CCNC(C)=O)[N+](=O)[O-] | C11H14N2O4
